Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
pitted fruits
 
Attending: ___.
 
Chief Complaint:
elevated BPs, LFTs, HA 
 
Major Surgical or Invasive Procedure:
SVD
 
History of Present Illness:
___ G1 at 33w0d w/ gHTN who presents w/ HA, elevated BPs and 
transaminitis noted yesterday (ALT 82, AST 47). Pt states that 
she took some Tylenol which brought her HA down from ___ to 
___. She denies any visual changes. She had some RUQ pain 
yesterday, none today. She denies any ctx, VB, LOF. +AFM.
 
Past Medical History:
PNC: 
 - ___ ___ by ___ trimester US   
 - Labs Rh pos/Abs neg/Rub I/VZV I/RPR NR/HBsAg neg/HIV neg /GBS
POSITIVE
 - Screening low risk ERA 
 - FFS normal anterior placenta 
 - GLT 75
 - U/S ___ 1934g 46th%, BPP ___ 
Issues:
*) gHTN -  s/p admission from ___ to ___ w/ normal PIH
labs, neg 24 hour urine protein (154) 
*) Intermittent HA 
*) h/o bipolar disorder - on abilify but self discontinued on
___
*) chronic hepatitis C - ___ VL undetectable, normal baseline
LFTs
*) BMI 39
*) h/o tobacco use, ongoing cessation since beginning of
pregnancy 
*) declined Tdap

OBHx: G1 

GynHx:
- denies abnormal Pap or cervical procedures, last Pap ___
NILM 
- denies fibroids/endometriosis/cysts
- denies STIs, including HSV

PMH: 
- Seasonal allergies
- Chronic Hepatitis C
- Bipolar Disorder
- PCOS
- Asthma

PSH: ___ CCY @ ___
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On admission:
___ ___: 93
___ 16:38BP: 130/69 (81)
___ 16:19BP: 145/87 (99)
___ 14:17BP: 142/82 (96)
Gen: A&O, comfortable
Abd: soft, gravid, nontender, no fundal TTP
Ext: non-tender, no edema
Toco flat 
FHT 135/moderate variability/+accels/-decels
TAUS: vertex
------------------
On discharge:
Vitals: 
24 HR Data (last updated ___ @ 530) Temp: 98.6 (Tm 98.6), 
BP: 127/77 (118-128/77-86), HR: 94 (89-108), RR: 18 (___), O2 
sat: 98% (94-98), O2 delivery: ra
General: NAD
CV: RRR
Lungs: Nonlabored breathing, CTAB
Abd: soft, fundus firm at umbilicus, appropriate fundal 
tenderness
Lochia: minimal
Extremities: no calf tenderness, no edema
Neuro: reflexes symmetric b/l, no clonus 
 
Pertinent Results:
___ 12:19PM BLOOD WBC-8.4 RBC-3.69* Hgb-11.1* Hct-35.5 
MCV-96 MCH-30.1 MCHC-31.3* RDW-13.2 RDWSD-46.7* Plt ___
___ 07:30PM BLOOD WBC-9.0 RBC-3.56* Hgb-10.9* Hct-33.4* 
MCV-94 MCH-30.6 MCHC-32.6 RDW-12.8 RDWSD-44.0 Plt ___
___ 03:00PM BLOOD WBC-12.3* RBC-3.65* Hgb-11.1* Hct-34.9 
MCV-96 MCH-30.4 MCHC-31.8* RDW-12.7 RDWSD-44.0 Plt ___
___ 02:35AM BLOOD WBC-11.9* RBC-3.60* Hgb-11.0* Hct-33.5* 
MCV-93 MCH-30.6 MCHC-32.8 RDW-12.7 RDWSD-43.7 Plt ___
___ 03:16PM BLOOD WBC-13.5* RBC-3.69* Hgb-11.3 Hct-34.5 
MCV-94 MCH-30.6 MCHC-32.8 RDW-12.7 RDWSD-43.6 Plt ___
___ 09:41AM BLOOD WBC-13.3* RBC-3.73* Hgb-11.3 Hct-35.2 
MCV-94 MCH-30.3 MCHC-32.1 RDW-12.9 RDWSD-44.6 Plt ___
___ 10:18PM BLOOD WBC-14.3* RBC-3.57* Hgb-11.0* Hct-33.3* 
MCV-93 MCH-30.8 MCHC-33.0 RDW-13.1 RDWSD-44.7 Plt ___
___ 09:35AM BLOOD WBC-16.8* RBC-3.61* Hgb-11.0* Hct-33.7* 
MCV-93 MCH-30.5 MCHC-32.6 RDW-13.2 RDWSD-44.5 Plt ___
___ 07:40AM BLOOD Hct-26.1

___ 12:19PM BLOOD Creat-0.7 ALT-82* AST-47*
___ 01:57PM BLOOD Creat-0.6 ALT-72* AST-40
___ 07:30PM BLOOD Creat-0.7 ALT-72* AST-40 TotBili-0.2
___ 09:45AM BLOOD Creat-0.6 ALT-73* AST-42*
___ 03:00PM BLOOD Creat-0.6 ALT-77* AST-48*
___ 08:43PM BLOOD Creat-0.5 ALT-80* AST-46*
___ 02:35AM BLOOD Creat-0.5 ALT-95* AST-58*
___ 09:41AM BLOOD Creat-0.5 ALT-124* AST-81*
___ 03:16PM BLOOD Creat-0.5 ALT-155* AST-101*
___ 10:18PM BLOOD Creat-0.6 ALT-172* AST-117*
___ 03:12AM BLOOD Creat-0.5 ALT-176* AST-114*
___ 09:35AM BLOOD Creat-0.6 ALT-177* AST-103*
___ 07:50PM BLOOD Creat-0.6 ALT-148* AST-71*

___ 07:30PM BLOOD HBsAg-NEG HAV Ab-POS*
___ 09:45AM BLOOD IgM HAV-NEG
___ 07:30PM BLOOD HCV VL-NOT DETECT

___ 01:57PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-2* pH-6.0 Leuks-LG*
___ 01:57PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-10 TransE-<1
___ 12:19PM URINE Hours-RANDOM Creat-306 TotProt-34 
Prot/Cr-0.1
___ 01:57PM URINE Hours-RANDOM Creat-252 TotProt-25 
Prot/Cr-0.1
___ 05:27PM URINE pH-5 Hours-24 Volume-2700 Creat-64 
TotProt-11 Prot/Cr-0.2
___ 05:27PM URINE 24Creat-1728 24Prot-___ G1 at 33w0d withg gHTN, headache, and a new transaminitis; 
concerning for pre-eclampsia with severe features. On admission, 
she had mild range blood pressures and improved LFTs. In 
addition, her headache resolved. Fetal testing was reassuring. 
She received a course of betamethasone. 

On HD#2, she was transferred back to labor and delivery for 
closer monitoring and magnesium given the concern for evolving 
severe preeclampsia. Her transaminitis increased and she 
developed severe range blood pressures requiring IV 
antihypertensives. She underwent induction of labor and had an 
uncomplicated SVD on ___ (at 33w3d). Her delivery was notable 
for uterine atony and an estimated blood loss of 700 cc which 
was controlled with uterotonics. 
.
Ms ___ was continued on Magnesium for 24 hours postpartum. 
Her blood pressures were controlled on po Labetalol 200mg TID. 
She was discharged to home on PPD#2. She was discharged to home 
and will have close outpatient follow up with a blood pressure 
check.
 
Medications on Admission:
PNV
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed 4000 mg per day.  
RX *acetaminophen 500 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
Do not take if you are experiencing diarrhea.  
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild/Fever 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not exceed 2400 mg per day. Take with food.  
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0 
4.  Labetalol 200 mg PO TID 
Please continue to take this medication as prescribed until 
instructed otherwise.  
RX *labetalol 200 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*1
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vaginal delivery
preeclampsia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

___ on the birth of your baby! During your 
pregnancy, you had elevated blood pressures and were diagnosed 
with pre-eclampsia. You were started on blood pressure 
medications Please continue to take this medications until 
instructed otherwise. You have recovered well and the team now 
feels that you are ready to go home.

Please refer to your discharge packet and the instructions 
below:
- Nothing in the vagina for 6 weeks (No sex, douching, tampons)
- Do not take more than 4000mg acetaminophen (Tylenol) in 24 hrs
- Do not take more than 2400mg ibuprofen (Motrin) in 24 hrs

Please call the on-call doctor at ___ if you develop 
headache, vision changes, shortness of breath, dizziness, 
palpitations, fever of 100.4 or above, abdominal pain, heavy 
vaginal bleeding, nausea/vomiting, depression, or any other 
concerns.
 
Followup Instructions:
___